US04487779
1-(4-benzyloxy-2,6-dimethylphenyl)-3-amidinourea hydrochloride
A 50% NaOH aqueous solution (8.0 g) is added to a suspension of guanidine carbonate (9.0 g) in 200 ml of THF. The mixture is stirred for one hour, after which 15.0 grams of anhydrous Na2SO4 are added and the mixture stirred an additional hour. A solution of 4-benzyloxy-2,6-dimethylphenyl isocyanate (12.7 g) in 100 ml HTF is added to the mixture over a period of 4 hours. The reaction mixture is allowed to stand overnight, filtered, and the filtrate concentrated under vacuum. The filtrate is partitioned between H2O and CHCl3. The two layers are filtered to remove insoluble materials and then separated. The aqueous layer is extracted with CHCl3 and the combined CHCl3 extracts dried and concentrated under vacuo to give a tan solid. This solid is dissolved in methanol and acidified with HCl/methanol. Methanol is removed under vacuo to give a solid which is crystallized from methanol/acetonitrile to give after filtering and vacuum drying 9.8 grams of the desired amidinourea hydrochloride, M.P. 181°-183° C.

reactant | NaOH | 8.0 g | [OH-].[Na+]
reactant | guanidine carbonate | 9.0 g | C(O)(O)=O.NC(=N)N
reactant | Na2SO4 | 15.0 grams | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 4-benzyloxy-2,6-dimethylphenyl isocyanate | 12.7 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)N=C=O)C | C16H15NO2
reactant | HCl methanol | Cl.CO
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1-(4-benzyloxy-2,6-dimethylphenyl)-3-amidinourea hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)NC(=O)NC(N)=N)C | InChI=1S/C17H20N4O2.ClH/c1-11-8-14(23-10-13-6-4-3-5-7-13)9-12(2)15(11)20-17(22)21-16(18)19;/h3-9H,10H2,1-2H3,(H5,18,19,20,21,22);1H
